US09145393B2
Step 4: (R)-tert-Butyl 3-((6-methoxy-[3,4′-bipyridin]-5-yl)amino)piperidine-1-carboxylate
Pyridine-4-boronic acid (0.950 g, 7.77 mmol) and potassium phosphate (2 M, 70 mL) was added to a solution of (R)-tert-butyl 3-((5-bromo-2-methoxypyridin-3-yl)amino)piperidine-1-carboxylate (2.00 g, 5.18 mmol) in dioxane (70 mL). The mixture was degassed for 20 min and then Pd(dppf)Cl2 (1.28 g, 1.55 mmol) was added. The mixture was stirred at 80° C. for 6 h. The mixture was allowed to cool to room temperature and was filtered through celite and concentrated. The residue was purified by chromatography using 40-50% ethyl acetate in pet ether to give 1 g of the desired compound: 1H NMR (300 MHz, DMSO-d6) 8.55-8.65 (narrow m, 2H), 7.85 (s, 1H), 7.65-7.75 (narrow m, 2H), 7.10-7.30 (m, 1H), 5.03 (br s, 1H), 3.94 (s, 3H), 3.45-3.80 (m, 3H), 2.90-3.15 (m, 2H), 1.85-2.00 (m, 1H), 1.15-1.75 (m, 12H); MS (ES) m/z 385 (M+H).

reactant | Pyridine-4-boronic acid | 7.77 mmol, 0.950 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | potassium phosphate | 2 M, 70 mL | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (R)-tert-butyl 3-((5-bromo-2-methoxypyridin-3-yl)amino)piperidine-1-carboxylate | 5.18 mmol, 2.00 g | BrC=1C=C(C(=NC1)OC)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C16H24BrN3O3
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 1.55 mmol, 1.28 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (R)-tert-Butyl 3-((6-methoxy-[3,4′-bipyridin]-5-yl)amino)piperidine-1-carboxylate | 1 g | COC1=C(C=C(C=N1)C1=CC=NC=C1)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C21H28N4O3
